US06903126B2
d) 6-[[2-Mercapto-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
0.4 g of 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester was dissolved in 5 ml of pyridine, mixed with 75 μl of carbon disulfide, and the mixture was stirred for 12 hours at 20° C. It was mixed with saturated sodium bicarbonate solution, extracted three times with ethyl acetate, the combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 368 mg was obtained.

reactant | 6-(3-phenylamino-4-aminophenyl)oxyhexanoic acid methyl ester | 0.4 g | COC(CCCCCOC1=CC(=C(C=C1)N)NC1=CC=CC=C1)=O | C19H24N2O3
reactant | carbon disulfide | 75 μl | C(=S)=S | CS2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-[[2-Mercapto-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S)C2=CC=CC=C2)C1)=O | C20H22N2O3S
